* PEX produced on Fri Aug 14 03:45:49 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from charge_pump_cell.ext - technology: ihp-sg13g2

.subckt charge_pump_cell gd vp UP DN vout
X0 net8 net15 vp vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X1 net1 bias net2 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
X2 gd net1 net2 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
X3 curr_source_0.iref a_1397_4440# vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X4 a_3659_5090# UP gd gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X5 vp net15 net5 vp sg13_lv_pmos ad=0.561p pd=3.98u as=0.561p ps=3.98u w=1.65u l=0.6u
X6 net1 bias net2 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X7 gd net1 net2 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X8 a_989_4628# vbias_0.curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X9 a_1695_4628# curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X10 a_1397_4440# vp vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X11 net1 curr_source_0.iref vp vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X12 gd gd gd gd sg13_lv_nmos ad=0.136p pd=1.48u as=21.16p ps=0.14074m w=0.4u l=0.6u
X13 gd gd gd gd sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X14 a_1077_4114# a_989_4628# vbias_0.curr_source_0.iref gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X15 a_1783_4114# a_1695_4628# curr_source_0.iref gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X16 vout DN net13 gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X17 vbias_0.curr_source_0.iref a_691_4440# vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X18 net5 bias a_2995_5126# vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X19 vp curr_source_0.iref curr_source_0.iref vp sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X20 a_691_4440# vp vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X21 a_1397_4440# a_1397_4440# gd gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X22 a_3659_5090# UP vp vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X23 gd gd gd gd sg13_lv_nmos ad=0.6324p pd=4.4u as=0 ps=0 w=1.86u l=0.6u
X24 a_1695_4628# a_1695_4628# gd gd sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X25 gd a_1077_4114# gd rppd l=1.7u w=1u
X26 gd a_1783_4114# gd rppd l=1.7u w=1u
X27 a_989_4628# a_989_4628# gd gd sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X28 vp vbias_0.curr_source_0.iref vbias_0.curr_source_0.iref vp sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X29 a_95_4470# a_95_4470# gd gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X30 net13 bias a_3385_4115# gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X31 gd net1 a_3385_4115# gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X32 vout a_3659_5090# a_2995_5126# vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X33 net2 bias net1 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X34 bias a_393_4470# gd rppd l=1.7u w=1u
X35 a_691_4440# a_691_4440# gd gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X36 net2 net1 gd gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X37 vp vp vp vp sg13_lv_pmos ad=0.4675p pd=3.43u as=19.0472p ps=0.10859m w=1.375u l=0.6u
X38 net15 bias net8 vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X39 net10 bias net15 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X40 a_95_4470# a_393_4470# bias gd sg13_lv_nmos ad=1.224p pd=7.88u as=1.224p ps=7.88u w=3.6u l=0.6u
X41 a_393_4470# vbias_0.curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X42 net7 bias net10 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X43 net7 net1 gd gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
C0 vp net8 0.12854f
C1 net15 a_2995_5126# 0.20408f
C2 bias net5 0.06561f
C3 bias net1 1.1044f
C4 a_1695_4628# a_1783_4114# 0.05702f
C5 a_2995_5126# vp 0.22613f
C6 a_1397_4440# curr_source_0.iref 0.20908f
C7 bias a_393_4470# 0.26066f
C8 a_1397_4440# a_1443_4114# 0.02514f
C9 a_3385_4115# net1 0.09901f
C10 bias vbias_0.curr_source_0.iref 0.02618f
C11 a_393_4470# vbias_0.curr_source_0.iref 0.21643f
C12 curr_source_0.iref a_989_4628# 0.0482f
C13 bias a_3385_4115# 0.04692f
C14 bias a_691_4440# 0.03834f
C15 a_393_4470# a_691_4440# 0.01389f
C16 UP vout 0.10527f
C17 bias a_1077_4114# 0.04917f
C18 net10 net1 0.02038f
C19 a_1695_4628# net1 0.01079f
C20 a_691_4440# vbias_0.curr_source_0.iref 0.20908f
C21 vbias_0.curr_source_0.iref a_1077_4114# 0.09902f
C22 vout vp 0.17936f
C23 bias net10 0.10903f
C24 bias a_1695_4628# 0.01568f
C25 a_691_4440# a_1077_4114# 0.03881f
C26 net15 net5 0.05352f
C27 net15 net1 0.38747f
C28 a_1397_4440# a_1783_4114# 0.03881f
C29 net5 vp 0.12574f
C30 net1 vp 0.22937f
C31 bias UP 0.03518f
C32 bias net15 0.89253f
C33 bias vp 0.63566f
C34 a_393_4470# vp 0.14436f
C35 a_3659_5090# DN 0.25646f
C36 bias a_737_4114# 0.02274f
C37 bias a_95_4470# 0.45403f
C38 a_393_4470# a_95_4470# 0.18853f
C39 a_1783_4114# net2 0.01919f
C40 bias a_91_4114# 0.14491f
C41 a_393_4470# a_91_4114# 0.02412f
C42 vbias_0.curr_source_0.iref vp 1.37943f
C43 net7 net1 0.11087f
C44 a_95_4470# vbias_0.curr_source_0.iref 0.01534f
C45 a_691_4440# vp 0.24237f
C46 a_1077_4114# vp 0.03553f
C47 a_691_4440# a_737_4114# 0.02514f
C48 a_95_4470# a_691_4440# 0.03339f
C49 bias net7 0.04748f
C50 a_2995_5126# a_3659_5090# 0.0261f
C51 net15 net10 0.08193f
C52 a_1397_4440# bias 0.03625f
C53 a_1695_4628# vp 0.17863f
C54 net15 UP 0.01532f
C55 a_1397_4440# vbias_0.curr_source_0.iref 0.03926f
C56 a_3385_4115# net7 0.39335f
C57 net1 net2 0.57037f
C58 UP vp 0.43771f
C59 a_1397_4440# a_1077_4114# 0.06061f
C60 net13 DN 0.04315f
C61 net15 vp 1.00557f
C62 bias net2 0.57718f
C63 vbias_0.curr_source_0.iref a_989_4628# 0.16523f
C64 curr_source_0.iref a_1783_4114# 0.0999f
C65 net7 net10 0.06622f
C66 a_95_4470# vp 0.26048f
C67 a_1077_4114# a_989_4628# 0.05702f
C68 a_3659_5090# vout 0.16468f
C69 a_95_4470# a_91_4114# 0.02535f
C70 DN vout 0.08252f
C71 a_2995_5126# net13 0.02309f
C72 a_1397_4440# vp 0.24218f
C73 curr_source_0.iref net1 0.031f
C74 a_2995_5126# vout 0.06063f
C75 net1 net8 0.05619f
C76 vp a_989_4628# 0.22154f
C77 bias curr_source_0.iref 0.10292f
C78 bias a_1443_4114# 0.02273f
C79 net15 net2 0.01645f
C80 a_2995_5126# net5 0.09026f
C81 a_2995_5126# net1 0.01521f
C82 bias net8 0.04739f
C83 net13 vout 0.04139f
C84 vbias_0.curr_source_0.iref curr_source_0.iref 0.07824f
C85 bias a_2995_5126# 0.62915f
C86 a_1783_4114# net1 0.01235f
C87 a_1695_4628# curr_source_0.iref 0.25454f
C88 a_3659_5090# UP 0.95982f
C89 bias net13 0.03366f
C90 bias a_1783_4114# 0.17779f
C91 UP DN 0.24676f
C92 a_3659_5090# vp 0.42408f
C93 net15 curr_source_0.iref 0.04994f
C94 DN vp 0.01249f
C95 a_2995_5126# net10 0.01594f
C96 net13 a_3385_4115# 0.06622f
C97 curr_source_0.iref vp 1.6652f
C98 a_1783_4114# a_1077_4114# 0.01012f
C99 net15 net8 0.16372f
C100 bias vout 0.01794f
C101 vout gd 0.7027f
C102 net13 gd 0.24197f
C103 a_3385_4115# gd 0.11516f
C104 net7 gd 0.29149f
C105 net10 gd 0.22665f
C106 net2 gd 3.34925f
C107 a_1783_4114# gd 1.53888f
C108 a_1077_4114# gd 1.53247f
C109 a_2995_5126# gd 0.33845f
C110 net8 gd 0.19574f
C111 a_95_4470# gd 0.35835f
C112 net15 gd 0.0779f
.ends

