* PEX produced on Wed Aug 19 10:30:23 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from charge_pump_cell.ext - technology: ihp-sg13g2

.subckt charge_pump_cell gd vp rst DN UP
X0 net8 net15 vp vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X1 net1 bias net2 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
X2 gd net1 net2 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
X3 bias a_453_4470# gd rppd l=1.7u w=1u
X4 curr_source_0.iref a_1397_4440# vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X5 vp vp vp vp sg13_lv_pmos ad=0.4675p pd=3.43u as=20.86482p ps=0.11767m w=1.375u l=0.6u
X6 a_1049_4628# vbias_0.curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X7 gd UP a_3659_5090# gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X8 vp net15 net5 vp sg13_lv_pmos ad=0.561p pd=3.98u as=0.561p ps=3.98u w=1.65u l=0.6u
X9 a_1137_4114# a_1049_4628# vbias_0.curr_source_0.iref gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X10 gd gd gd gd sg13_lv_nmos ad=0.136p pd=1.48u as=21.5728p ps=0.14041m w=0.4u l=0.6u
X11 net1 bias net2 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X12 gd net1 net2 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X13 a_1695_4628# curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X14 a_1397_4440# vp vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X15 net1 curr_source_0.iref vp vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X16 gd gd gd gd sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X17 vbias_0.curr_source_0.iref a_751_4440# vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X18 a_1783_4114# a_1695_4628# curr_source_0.iref gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X19 vout DN net13 gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X20 net5 bias a_2995_5126# vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X21 vp curr_source_0.iref curr_source_0.iref vp sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X22 a_751_4440# vp vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X23 a_1397_4440# a_1397_4440# gd gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X24 a_3659_5090# UP vp vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X25 a_1049_4628# a_1049_4628# gd gd sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X26 vtest vtest vp vp sg13_lv_pmos ad=0.612p pd=4.28u as=0.612p ps=4.28u w=1.8u l=1.8u
X27 a_1695_4628# a_1695_4628# gd gd sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X28 gd a_1783_4114# gd rppd l=1.7u w=1u
X29 vp vbias_0.curr_source_0.iref vbias_0.curr_source_0.iref vp sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X30 a_751_4440# a_751_4440# gd gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X31 net13 bias a_3385_4115# gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X32 gd net1 a_3385_4115# gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X33 vout a_3659_5090# a_2995_5126# vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X34 net2 bias net1 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X35 vout rst vtest gd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=1.8u
X36 a_155_4470# a_453_4470# bias gd sg13_lv_nmos ad=1.224p pd=7.88u as=1.224p ps=7.88u w=3.6u l=0.6u
X37 net2 net1 gd gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X38 net15 bias net8 vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X39 net10 bias net15 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X40 gd gd gd gd sg13_lv_nmos ad=0.6324p pd=4.4u as=0 ps=0 w=1.86u l=0.6u
X41 gd a_1137_4114# gd rppd l=1.7u w=1u
X42 a_453_4470# vbias_0.curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X43 net7 bias net10 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X44 net7 net1 gd gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X45 vtest vtest gd gd sg13_lv_nmos ad=0.612p pd=4.28u as=0.612p ps=4.28u w=1.8u l=0.6u
X46 a_155_4470# a_155_4470# gd gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
C0 vbias_0.curr_source_0.iref vout 0.09431f
C1 vtest vp 0.93664f
C2 curr_source_0.iref a_1049_4628# 0.07184f
C3 vout a_453_4470# 0.03039f
C4 DN vout 0.13565f
C5 UP vp 0.40366f
C6 net1 net2 0.61431f
C7 vout a_751_4440# 0.0582f
C8 net15 bias 0.82121f
C9 net10 a_2995_5126# 0.03395f
C10 a_1397_4440# a_1443_4114# 0.02514f
C11 net1 a_2995_5126# 0.01422f
C12 a_797_4114# a_751_4440# 0.02514f
C13 net5 bias 0.06488f
C14 a_155_4470# a_453_4470# 0.18654f
C15 a_155_4470# a_751_4440# 0.03339f
C16 net15 vout 0.13666f
C17 rst vout 0.03771f
C18 net5 vout 0.03925f
C19 net1 a_3385_4115# 0.09901f
C20 a_3659_5090# a_2995_5126# 0.02901f
C21 a_3659_5090# net13 0.0178f
C22 vp curr_source_0.iref 1.69019f
C23 net13 a_2995_5126# 0.02064f
C24 curr_source_0.iref a_1783_4114# 0.09908f
C25 vtest DN 0.74999f
C26 net1 vp 0.23629f
C27 vp a_1695_4628# 0.17867f
C28 net1 net8 0.08504f
C29 net1 a_1783_4114# 0.01258f
C30 a_1137_4114# a_1049_4628# 0.05033f
C31 UP DN 0.55523f
C32 a_1783_4114# a_1695_4628# 0.05033f
C33 bias vout 0.37215f
C34 a_3385_4115# net13 0.06622f
C35 a_797_4114# bias 0.02274f
C36 vp a_1049_4628# 0.26111f
C37 a_151_4114# a_453_4470# 0.02412f
C38 a_3659_5090# vp 0.5f
C39 a_1397_4440# curr_source_0.iref 0.20586f
C40 vtest rst 0.15924f
C41 vp a_2995_5126# 0.23427f
C42 a_155_4470# bias 0.4535f
C43 net2 a_1783_4114# 0.01919f
C44 vbias_0.curr_source_0.iref curr_source_0.iref 0.09352f
C45 rst UP 0.0217f
C46 a_1443_4114# bias 0.02273f
C47 net7 bias 0.04748f
C48 a_155_4470# vout 0.057f
C49 vp a_1137_4114# 0.05318f
C50 a_1137_4114# a_1783_4114# 0.01115f
C51 vbias_0.curr_source_0.iref a_1049_4628# 0.15419f
C52 net15 curr_source_0.iref 0.04835f
C53 net8 vp 0.1226f
C54 net15 net10 0.08791f
C55 net1 net15 0.25859f
C56 a_3659_5090# DN 0.19972f
C57 vtest vout 0.21996f
C58 net13 DN 0.0409f
C59 a_151_4114# bias 0.14491f
C60 a_1397_4440# a_1137_4114# 0.07847f
C61 UP vout 0.15345f
C62 vbias_0.curr_source_0.iref a_1137_4114# 0.09902f
C63 net15 net2 0.01606f
C64 a_1397_4440# vp 0.22598f
C65 curr_source_0.iref bias 0.06009f
C66 net15 a_3659_5090# 0.01871f
C67 net15 a_2995_5126# 0.16605f
C68 vp vbias_0.curr_source_0.iref 1.37112f
C69 a_1137_4114# a_751_4440# 0.03881f
C70 a_1397_4440# a_1783_4114# 0.03881f
C71 net5 a_2995_5126# 0.06935f
C72 net10 bias 0.10739f
C73 net1 bias 1.23143f
C74 bias a_1695_4628# 0.01447f
C75 a_151_4114# a_155_4470# 0.02535f
C76 vp DN 0.0123f
C77 vp a_453_4470# 0.14436f
C78 vp a_751_4440# 0.22621f
C79 curr_source_0.iref vout 0.15424f
C80 net2 bias 0.57767f
C81 net1 vout 0.49584f
C82 vtest UP 0.16743f
C83 vout a_1695_4628# 0.09603f
C84 a_3659_5090# bias 0.03569f
C85 bias a_2995_5126# 0.66243f
C86 net13 bias 0.03366f
C87 net15 vp 1.18523f
C88 a_1397_4440# vbias_0.curr_source_0.iref 0.04663f
C89 net5 vp 0.11856f
C90 net15 net8 0.15267f
C91 vout a_1049_4628# 0.09441f
C92 net7 net10 0.06622f
C93 net1 net7 0.111f
C94 a_3659_5090# vout 0.33595f
C95 vout a_2995_5126# 0.79512f
C96 net13 vout 0.047f
C97 vbias_0.curr_source_0.iref a_453_4470# 0.21265f
C98 a_3385_4115# bias 0.04692f
C99 vbias_0.curr_source_0.iref a_751_4440# 0.20586f
C100 a_1137_4114# bias 0.04819f
C101 a_751_4440# a_453_4470# 0.01389f
C102 vp bias 0.57218f
C103 net1 vtest 0.02027f
C104 net8 bias 0.03608f
C105 bias a_1783_4114# 0.17783f
C106 vp vout 0.63108f
C107 rst DN 0.02403f
C108 vtest a_3659_5090# 0.0204f
C109 net8 vout 0.03905f
C110 net7 a_3385_4115# 0.39335f
C111 vp a_155_4470# 0.25344f
C112 a_3659_5090# UP 0.97456f
C113 a_1397_4440# bias 0.03596f
C114 vbias_0.curr_source_0.iref bias 0.02062f
C115 net1 curr_source_0.iref 0.03073f
C116 curr_source_0.iref a_1695_4628# 0.24332f
C117 net15 net5 0.0854f
C118 bias a_453_4470# 0.26059f
C119 net1 net10 0.02038f
C120 bias a_751_4440# 0.03805f
C121 a_1397_4440# vout 0.0582f
C122 net1 a_1695_4628# 0.01055f
C123 vp gd 0.9724f
C124 net13 gd 0.17335f
C125 a_3385_4115# gd 0.11479f
C126 net7 gd 0.1142f
C127 net10 gd 0.04797f
C128 net2 gd 3.59689f
C129 a_1783_4114# gd 1.52787f
C130 a_1137_4114# gd 1.54539f
C131 vout gd 1.44415f
C132 a_2995_5126# gd 0.26951f
C133 net8 gd 0.29136f
C134 net15 gd 0.17917f
.ends

