* PEX produced on Fri Aug 21 03:40:19 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from charge_pump_cell.ext - technology: ihp-sg13g2

.subckt charge_pump_cell gd vp rst DN UP
X0 net8 net15 vp vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X1 net1 bias net2 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
X2 gd net1 net2 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
X3 bias a_453_4470# gd rppd l=1.7u w=1u
X4 curr_source_0.iref a_1397_4440# vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X5 vp vp vp vp sg13_lv_pmos ad=0.4675p pd=3.43u as=20.86482p ps=0.11767m w=1.375u l=0.6u
X6 gd gd gd gd sg13_lv_nmos ad=0.544p pd=3.88u as=22.4578p ps=0.15087m w=1.6u l=0.6u
X7 a_1049_4628# vbias_0.curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X8 gd UP a_3659_5090# gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X9 vp net15 net5 vp sg13_lv_pmos ad=0.561p pd=3.98u as=0.561p ps=3.98u w=1.65u l=0.6u
X10 a_1137_4114# a_1049_4628# vbias_0.curr_source_0.iref gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X11 gd gd gd gd sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X12 net1 bias net2 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X13 gd net1 net2 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X14 a_1695_4628# curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X15 a_1397_4440# vp vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X16 net1 curr_source_0.iref vp vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X17 gd gd gd gd sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X18 vbias_0.curr_source_0.iref a_751_4440# vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X19 a_1783_4114# a_1695_4628# curr_source_0.iref gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X20 vout DN net13 gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X21 net5 bias a_2995_5126# vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X22 vp curr_source_0.iref curr_source_0.iref vp sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X23 a_751_4440# vp vp gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X24 a_1397_4440# a_1397_4440# gd gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X25 a_3659_5090# UP vp vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X26 a_1049_4628# a_1049_4628# gd gd sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X27 vtest vtest vp vp sg13_lv_pmos ad=0.612p pd=4.28u as=0.612p ps=4.28u w=1.8u l=1.8u
X28 a_1695_4628# a_1695_4628# gd gd sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X29 gd a_1783_4114# gd rppd l=1.7u w=1u
X30 vp vbias_0.curr_source_0.iref vbias_0.curr_source_0.iref vp sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X31 a_751_4440# a_751_4440# gd gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X32 net13 bias a_3385_4115# gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X33 gd net1 a_3385_4115# gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X34 vout a_3659_5090# a_2995_5126# vp sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X35 net2 bias net1 gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X36 vout rst vtest gd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=1.8u
X37 a_155_4470# a_453_4470# bias gd sg13_lv_nmos ad=1.224p pd=7.88u as=1.224p ps=7.88u w=3.6u l=0.6u
X38 net2 net1 gd gd sg13_lv_nmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X39 net15 bias net8 vp sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X40 net10 bias net15 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X41 gd gd gd gd sg13_lv_nmos ad=0.6324p pd=4.4u as=0 ps=0 w=1.86u l=0.6u
X42 gd a_1137_4114# gd rppd l=1.7u w=1u
X43 a_453_4470# vbias_0.curr_source_0.iref vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X44 net7 bias net10 gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X45 net7 net1 gd gd sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X46 vtest vtest gd gd sg13_lv_nmos ad=0.612p pd=4.28u as=0.612p ps=4.28u w=1.8u l=0.6u
X47 a_155_4470# a_155_4470# gd gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
C0 curr_source_0.iref bias 0.06616f
C1 UP a_3659_5090# 0.97456f
C2 a_151_4114# bias 0.14491f
C3 vout curr_source_0.iref 0.15324f
C4 net1 bias 1.23364f
C5 a_453_4470# bias 0.2608f
C6 a_1397_4440# a_1783_4114# 0.03881f
C7 vout net1 0.49584f
C8 net13 a_3659_5090# 0.0178f
C9 a_453_4470# vout 0.03039f
C10 a_1783_4114# a_1695_4628# 0.05033f
C11 vp vbias_0.curr_source_0.iref 1.37112f
C12 a_1397_4440# bias 0.03771f
C13 vtest DN 0.74999f
C14 net8 net1 0.08504f
C15 net15 bias 0.82164f
C16 bias a_1695_4628# 0.01693f
C17 vout a_1397_4440# 0.0582f
C18 net5 bias 0.06488f
C19 net15 vout 0.13666f
C20 vout a_1695_4628# 0.09603f
C21 vout net5 0.03925f
C22 a_797_4114# bias 0.02274f
C23 a_1137_4114# a_1397_4440# 0.07847f
C24 net2 a_1783_4114# 0.01919f
C25 net8 net15 0.15267f
C26 a_2995_5126# bias 0.66243f
C27 a_155_4470# bias 0.45367f
C28 net10 net1 0.02038f
C29 vout a_2995_5126# 0.79512f
C30 vout a_155_4470# 0.057f
C31 vtest vp 0.93573f
C32 net2 bias 0.57706f
C33 a_1397_4440# a_1443_4114# 0.02514f
C34 a_3385_4115# net7 0.39335f
C35 a_751_4440# bias 0.03841f
C36 vout DN 0.13565f
C37 vout a_1049_4628# 0.09441f
C38 vout a_751_4440# 0.0582f
C39 net15 net10 0.08791f
C40 net13 a_2995_5126# 0.02064f
C41 net1 curr_source_0.iref 0.03073f
C42 UP DN 0.55523f
C43 a_453_4470# a_151_4114# 0.02412f
C44 net15 a_3659_5090# 0.01871f
C45 a_1137_4114# a_1049_4628# 0.05033f
C46 a_1137_4114# a_751_4440# 0.03881f
C47 net10 a_2995_5126# 0.03395f
C48 net13 DN 0.0409f
C49 vbias_0.curr_source_0.iref bias 0.02113f
C50 a_1397_4440# curr_source_0.iref 0.20586f
C51 vp bias 0.57194f
C52 net15 curr_source_0.iref 0.0502f
C53 vout vbias_0.curr_source_0.iref 0.09431f
C54 curr_source_0.iref a_1695_4628# 0.24746f
C55 vp vout 0.63185f
C56 net7 bias 0.04764f
C57 rst DN 0.02403f
C58 a_3659_5090# a_2995_5126# 0.02901f
C59 net15 net1 0.25859f
C60 net1 a_1695_4628# 0.01055f
C61 UP vp 0.40365f
C62 a_1137_4114# vbias_0.curr_source_0.iref 0.09902f
C63 vp a_1137_4114# 0.05318f
C64 net8 vp 0.1226f
C65 a_3659_5090# DN 0.19972f
C66 a_151_4114# a_155_4470# 0.02535f
C67 a_3385_4115# bias 0.04706f
C68 a_2995_5126# net1 0.01422f
C69 a_453_4470# a_155_4470# 0.18654f
C70 net15 net5 0.0854f
C71 vtest vout 0.21996f
C72 a_1049_4628# curr_source_0.iref 0.07242f
C73 net2 net1 0.6143f
C74 UP vtest 0.16743f
C75 a_453_4470# a_751_4440# 0.01389f
C76 net10 net7 0.06622f
C77 net15 a_2995_5126# 0.16605f
C78 a_2995_5126# net5 0.06935f
C79 vp a_3659_5090# 0.49998f
C80 net13 a_3385_4115# 0.06622f
C81 a_1783_4114# bias 0.20469f
C82 net15 net2 0.01606f
C83 vbias_0.curr_source_0.iref curr_source_0.iref 0.09501f
C84 vtest rst 0.15924f
C85 vp curr_source_0.iref 1.75459f
C86 vout bias 0.3702f
C87 a_1137_4114# a_1783_4114# 0.01115f
C88 a_453_4470# vbias_0.curr_source_0.iref 0.21265f
C89 vp net1 0.23646f
C90 a_453_4470# vp 0.14436f
C91 a_797_4114# a_751_4440# 0.02514f
C92 net1 net7 0.111f
C93 vtest a_3659_5090# 0.0204f
C94 a_1137_4114# bias 0.0485f
C95 net8 bias 0.03608f
C96 a_155_4470# a_751_4440# 0.03339f
C97 UP vout 0.15345f
C98 a_1397_4440# vbias_0.curr_source_0.iref 0.04663f
C99 net8 vout 0.03905f
C100 vp a_1397_4440# 0.22598f
C101 net13 bias 0.03378f
C102 net15 vp 1.18532f
C103 vp a_1695_4628# 0.17976f
C104 vp net5 0.11856f
C105 net13 vout 0.047f
C106 a_1443_4114# bias 0.02273f
C107 a_3385_4115# net1 0.09901f
C108 vtest net1 0.02027f
C109 rst vout 0.03771f
C110 net10 bias 0.10796f
C111 vp a_2995_5126# 0.23426f
C112 vp a_155_4470# 0.25344f
C113 UP rst 0.0217f
C114 a_3659_5090# bias 0.03569f
C115 curr_source_0.iref a_1783_4114# 0.09912f
C116 vout a_3659_5090# 0.33595f
C117 a_1049_4628# vbias_0.curr_source_0.iref 0.15419f
C118 vbias_0.curr_source_0.iref a_751_4440# 0.20586f
C119 net1 a_1783_4114# 0.01258f
C120 vp DN 0.0123f
C121 vp a_1049_4628# 0.26111f
C122 vp a_751_4440# 0.22621f
C123 vp gd 0.97276f
C124 net13 gd 0.17335f
C125 a_3385_4115# gd 0.11479f
C126 net7 gd 0.11417f
C127 net10 gd 0.05032f
C128 net2 gd 3.64662f
C129 a_1783_4114# gd 1.5271f
C130 a_1137_4114# gd 1.54539f
C131 vout gd 1.44415f
C132 a_2995_5126# gd 0.26952f
C133 net8 gd 0.29159f
C134 net15 gd 0.17917f
.ends

